US09376442B2
tert-Butyl 4-{[(4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-2,6-dimethyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}piperidine-1-carboxylate
Starting from 4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-2,6-dimethyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.c17) and commercially available tert-butyl 4-amino-piperidine-1-carboxylate the title compound is obtained as colorless foam.

reactant | 4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-2,6-dimethyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C(=C1)OC)F)C=1C2=C(N=C(N1)C)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C26H34FN3O5Si
reactant | tert-butyl 4-amino-piperidine-1-carboxylate | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
product | tert-Butyl 4-{[(4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-2,6-dimethyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}piperidine-1-carboxylate | C1(CC1)COC1=C(C=C(C(=C1)OC)F)C=1C2=C(N=C(N1)C)C(=C(N2COCC[Si](C)(C)C)C)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C36H52FN5O6Si
